US08372867B2
A solution of 2-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzyl}-1H-isoindole-1,3(2H)-dione (0.65 g) and aqueous hydrazine solution (0.07 g) in methanol (5 mL) was refluxed for one hour. After the reaction solution was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was then purified by silica gel chromatography to yield 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}methanamine (0.2 g).

reactant | 2-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]benzyl}-1H-isoindole-1,3(2H)-dione | 0.65 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1)C(F)(F)F | C25H15Cl2F3N2O3
reactant | hydrazine | 0.07 g | NN | H4N2
solvent | methanol | 5 mL | CO | CH4O
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 1-{4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}methanamine | 0.2 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC=C(C=C1)CN)C(F)(F)F | C17H13Cl2F3N2O
